US07534872B2
In one embodiment, 5′-O-DMTR-N4-FMOC-2′-deoxycytidine was prepared according to the following protocol. 30 g (37.9 mmol) of 2′-deoxycytidine hydrochloride were silylated with trimethylchlorosilane (75 ml) in pyridine(160 ml), followed by treatment with fluorenylmethoxycarbonyl chloride (33 g, 128 mmol). After hydrolysis with H2O (300 ml) and extraction with AcOEt/H2O, the N4-FMOC-2′-deoxycytidine was obtained in a 97% yield (49.5 g) as a colorless powder.

reactant | 2′-deoxycytidine hydrochloride | 37.9 mmol, 30 g | Cl.[C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1
reactant | trimethylchlorosilane | 75 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | fluorenylmethoxycarbonyl chloride | 128 mmol, 33 g | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)Cl | C15H11ClO2
reactant | pyridine | 160 ml | N1=CC=CC=C1 | C5H5N
product | N4-FMOC-2′-deoxycytidine | 97% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1)=O | C24H23N3O6
